US08071592B2
(b) 1-(2-Propen-1-yl)-1,8-naphthyridine-2,7(1H,8H)-dione
A solution of 1-(2-propen-1-yl)-7-(2-propen-1-yloxy)-1,8-naphthyridin-2(1H)-one (440 mg, 1.8 mmol) in acetic acid (1 ml) was treated with 33% hydrogen bromide in acetic acid (1 ml) and heated for 1 hour at 50° C. and 10 hours at 80° C. The mixture was evaporated to dryness and taken to pH4 with saturated aqueous sodium bicarbonate (˜5 ml). The mixture was extracted with ethyl acetate, dried and evaporated. The residue was chromatographed eluting with 0-100% ethyl acetate in hexane affording the product as a yellow oil (123 mg, 34%).

reactant | 1-(2-propen-1-yl)-7-(2-propen-1-yloxy)-1,8-naphthyridin-2(1H)-one | 1.8 mmol, 440 mg | C(C=C)N1C(C=CC2=CC=C(N=C12)OCC=C)=O | C14H14N2O2
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Propen-1-yl)-1,8-naphthyridine-2,7(1H,8H)-dione | C(C=C)N1C(C=CC=2C=CC(NC12)=O)=O | C11H10N2O2
